US08562942B2
An aqueous solution of 1-adamantylamine hydrochloride (Alfa-Aesar, 99%) was treated with potassium hydroxide and extracted with toluene, dried over Na2SO4, filtered and stripped down by rotary evaporation to give 30.3 g 1-adamantylamine (200 mmol). The procedure for compound 1, above, was followed except the reaction was heated at 45° C. overnight yielding 26.23 g white solids (62.8 mmol, 63% yield). When performing the activated carbon treatment 2:1 water/absolute ethanol was used to dissolve the residue.

reactant | 1-adamantylamine hydrochloride | Cl.C12(CC3CC(CC(C1)C3)C2)N
reactant | potassium hydroxide | [OH-].[K+]
product | 1-adamantylamine | 200 mmol, 30.3 g | C12(CC3CC(CC(C1)C3)C2)N | C10H17N
